US07683176B2
4-Chloro-N-[5-chloro-2-(4-o-tolyl-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
The title compound was prepared according to general Method B using 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide (100 mg, 0.234 mmol), trimethylorthoformate (80 mg, 0.75 mmol), acetonitrile (2 mL), 2-methylaniline (62 mg, 0.50 mmol) and acetic acid (1.0 mL). 1H NMR: (CD3OD, ppm): 8.82 (s, 1H), 8.40 (s, 1H), 8.27 (d, 1H), 8.05 (m, 1H), 7.75 (d, 1H), 7.61 (s, 1H), 7.39 (m, 1H), 7.32 (m, 1H), 7.25 (m, 2H), 2.15 (s, 3H). MS (ES) [M+H]+ expected 528.0, found 528.0.

reactant | 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide | 0.234 mmol, 100 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)NN)C(F)(F)F | C13H9Cl2F3N4O3S
reactant | trimethylorthoformate | 0.75 mmol, 80 mg | COC(OC)OC | C4H10O3
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | 2-methylaniline | 0.50 mmol, 62 mg | CC1=C(N)C=CC=C1 | C7H9N
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 4-Chloro-N-[5-chloro-2-(4-o-tolyl-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=CN1C1=C(C=CC=C1)C)C(F)(F)F | C21H14Cl2F3N5O2S
